US07737166B2
Benzyl (3-dimethylcarbamoylpropyl)carbamate (I-153)
4-(Benzyloxycarbonylamino)butyric acid (0.74 g, 3.12 mmol) was dissolved in N,N-dimethylformamide, then 1-(dimethylaminopropyl)-3-ethylcarbodiimide 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.60 g, 3.13 mmol), 1-hydroxybenzotriazole (0.48 g, 3.13 mmol) and dimethylamine (2.0 M tetrahydrofuran solution, 2.40 ml, 4.80 mmol) were added, followed by stirring at room temperature for 3 days. The reaction liquid was concentrated under reduced pressure, diluted with ethyl acetate, washed with water, and dried over anhydrous sodium sulfate. The solvent was evaporated away under reduced pressure, and the resulting residue was purified by silica gel column chromatography (dichloromethane:methanol=70:1 to 40:1) to obtain a yellow solid (0.68 g, 82%).

reactant | 4-(Benzyloxycarbonylamino)butyric acid | 3.12 mmol, 0.74 g | C(C1=CC=CC=C1)OC(=O)NCCCC(=O)O | C12H15NO4
reactant | 1-(dimethylaminopropyl)-3-ethylcarbodiimide 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 3.13 mmol, 0.60 g | Cl.C(C)N=C=NCCCN(C)C.CN(C)CCCN=C=NCC
reactant | 1-hydroxybenzotriazole | 3.13 mmol, 0.48 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | dimethylamine | 4.80 mmol, 2.0 M, 2.40 ml | CNC | C2H7N
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | Benzyl (3-dimethylcarbamoylpropyl)carbamate | 0.68 g, 82% | CN(C(=O)CCCNC(OCC1=CC=CC=C1)=O)C | C14H20N2O3
